US05817599
Synthesis of hexadecyl N-(4-methylpiperadinyl)carbamate
6.3 Grams of N-amino-4-methylpiperadine, 6.0 g of triethylamine and 120 ml of chloroform were charged in a flask equipped with a stirrer, a condenser and a calcium chloride drying tube and stirred with ice cooling. To the solution was slowly added dropwise 15.2 g of hexadecyl chloroformate. After completion of the addition, the temperature of the solution was returned to room temperature, followed by refluxing with heating for 0.5 hour. The reaction mixture was cooled to room temperature, washed with water, dried over anhydrous magnesium sulfate and, then, concentrated under reduced pressure. The residue was recrystallized from acetonitrile to obtain 16.8 g of the desired product. m.p. 92° C.

reactant | N-amino-4-methylpiperadine | NN1CCC(CC1)C | C6H14N2
reactant | triethylamine | 6.0 g | C(C)N(CC)CC | C6H15N
reactant | hexadecyl chloroformate | 15.2 g | ClC(=O)OCCCCCCCCCCCCCCCC | C17H33ClO2
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | hexadecyl N-(4-methylpiperadinyl)carbamate | 16.8 g | CC1CCN(CC1)NC(OCCCCCCCCCCCCCCCC)=O | C23H46N2O2
